US07807709B2
3-Acetylamino-3-methyl-butyric acid
Triethylamine (1.8 mL, 12.8 mmol), acetic anhydride (1.2 mL, 12.8 mL) and DMAP (10 mg, 0.09 mmol) are subsequentially added to a suspension of 3-amino-3-methyl-butyric acid (1.00 g, 8.5 mmol) in THF (100 mL). After heating at 60° C. for 3 h AcOEt is added and the organic phase is washed with 1N HCl. Drying (Na2SO4), filtration and evaporation of the solvent yields the desired product. MS (LC-MS): [M+H]+=160.1. tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 0.40 min.

reactant | Triethylamine | 12.8 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-3-methyl-butyric acid | 8.5 mmol, 1.00 g | NC(CC(=O)O)(C)C | C5H11NO2
reactant | AcOEt | CCOC(=O)C | C4H8O2
catalyst | DMAP | 0.09 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Acetylamino-3-methyl-butyric acid | C(C)(=O)NC(CC(=O)O)(C)C | C7H13NO3
